US08426441B2
To a solution of prop-2-ynyl-carbamic acid tert-butyl ester (0.646 g, 4.16 mmol) in 15 mL of tetrahydrofuran at −78° C. was added lithium diisopropylamide (2.0 M solution in heptane/THF/EtPh, 4.6 mL, 9.2 mmol) all at once. The orange solution was stirred at −78° C. for 2 h, at which point it is a cloudy yellow mixture. 1,1,1-Trifluoroacetone (0.5 mL, 5 mmol) was added all at once, and the yellow mixture was stirred, allowing to slowly warm to RT, for 17.5 h. A sat. aq. NH4Cl solution (30 mL) was added, and the mixture was extracted with 30 mL of ether. The organic layer was sequentially washed with 30 mL of water and 30 mL of a sat. aq. NaCl solution, dried over MgSO4, filtered and concentrated to an orange cloudy oil. Column chromatography (20->40% EtOAc/hexanes) afforded 0.687 g (62%) of slightly impure (5,5,5-trifluoro-4-hydroxy-4-methyl-pent-2-ynyl)-carbamic acid tert-butyl ester as a yellow oil that was used without further purification.

reactant | prop-2-ynyl-carbamic acid tert-butyl ester | 4.16 mmol, 0.646 g | C(C)(C)(C)OC(NCC#C)=O | C8H13NO2
reactant | lithium diisopropylamide | 9.2 mmol, 2.0 M, 4.6 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1,1,1-Trifluoroacetone | 5 mmol, 0.5 mL | FC(C(=O)C)(F)F | C3H3F3O
reactant | NH4Cl | 30 mL | [NH4+].[Cl-]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (5,5,5-trifluoro-4-hydroxy-4-methyl-pent-2-ynyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#CC(C(F)(F)F)(C)O)=O | C11H16F3NO3
